US05405861
In ethanol (450 ml) was dissolved ethyl(2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate, to which was added, under ice-cooling, 2N sodium hydroxide solution (150 ml), and the mixture was stirred for one hour at room temperature. The reaction mixture was cooled with ice, to which was added a 27° C. aqueous solution of acetic acid (100 ml), followed by extraction with dichloromethane (200 ml) three times. Dichloromethane layers were combined and washed with a saturated aqueous saline solution (100 ml) twice, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to leave (2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionic acid (29.5 g) as a colorless waxy product.

reactant | sodium hydroxide | 2N, 150 ml | [OH-].[Na+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | ethyl(2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate | O1C(CCCC1)O[C@H](C(=O)OCC)C | C10H18O4
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | (2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionic acid | 29.5 g | O1C(CCCC1)O[C@H](C(=O)O)C | C8H14O4
